US05026625
A solution of 14.8 g of N-butyl-2,4-difluoroaniline, 16.2 g of triethylamine and 0 5 g of dimethylaminopyridine in 150 ml of toluene is treated dropwise at 0-5° C. with a solution of 15.2 g of p-toluenesulphonyl chloride in 80 ml of toluene. The reaction mixture is then warmed to 90° C. and stirred at this temperature for 48 hours. After cooling, the mixture is washed with 5% strength HCl and with water, and the toluene solution is dried over Na2SO4 and evaporated. The residue is distilled at 0.01 mbar. 18.5 g of N-butyl-N-(2,4-difluorophenyl)-p-toluenesulphonamide are obtained at 150°-160° as a colourless oil.

reactant | N-butyl-2,4-difluoroaniline | 14.8 g | C(CCC)NC1=C(C=C(C=C1)F)F | C10H13F2N
reactant | triethylamine | 16.2 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | p-toluenesulphonyl chloride | 15.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-butyl-N-(2,4-difluorophenyl)-p-toluenesulphonamide | 18.5 g | C(CCC)N(S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C=C1)F)F | C17H19F2NO2S
